US06492394B1
To a solution of 2(R)-(4-methoxybenzenesulfonylamino)-3-methylbutyric acid benzyl ester (1 g, 2.65 mmol) and 4-carboxymethylbenzyl bromide (0.577 g, 2.52 mmol) in dry dimethylformamide (60 mL) was added potassium carbonate (0.55 g, 4 mmol). The reaction mixture was stirred overnight and then condensed on the rotoevaporator. Purification by flash chromatography on a silica gel column using (5%) ethyl acetate/hexanes as the eluant gave 2(R)-[(4-methoxycarbonylbenzyl)-(4-methoxybenzenesulfonyl)amino]-3-methylbutyric acid benzyl ester (0.965 g) which was converted to N-hydroxy-2(R)-[(4-methoxycarbonylbenzyl)-(4-methoxybenzene-sulfonyl)amino]-3-methylbutyramide by following Steps 6 and 7 in Example 1, above.

reactant | 2(R)-(4-methoxybenzenesulfonylamino)-3-methylbutyric acid benzyl ester | 2.65 mmol, 1 g | C(C1=CC=CC=C1)OC([C@@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)OC)=O | C19H23NO5S
reactant | 4-carboxymethylbenzyl bromide | 2.52 mmol, 0.577 g | C(=O)(O)CC1=CC=C(CBr)C=C1 | C9H9BrO2
reactant | potassium carbonate | 4 mmol, 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 2(R)-[(4-methoxycarbonylbenzyl)-(4-methoxybenzenesulfonyl)amino]-3-methylbutyric acid benzyl ester | 0.965 g | C(C1=CC=CC=C1)OC([C@@H](C(C)C)N(S(=O)(=O)C1=CC=C(C=C1)OC)CC1=CC=C(C=C1)C(=O)OC)=O | C28H31NO7S
